* C:\Users\User\Desktop\LTSPICE(1)\ask3.asc
Q1 N005 N005 0 0 2N3904
Q3 Vout1 N003 N005 0 2N3904
Q2 N003 N005 0 0 2N3904
I1 N001 N003 1m
Vcc N001 0 12
Q4 N006 N004 0 0 2N3904
Q5 N004 N004 0 0 2N3904
I2 N002 N004 1m
Vcc1 N002 0 12
vout2 N006 0 0 AC 0
vout1 Vout1 0 0 AC 0
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.bjt
*.ac lin 10000 1 400
*rout1 = 99.464 for 100Hz and vout1 =12v
.dc vout1 0 100k
*.step param X 1 50k 10k
.backanno
.end
